US08039472B2
3,5-Diamino-6-chloro-pyrazine-2-carboxylic acid [(S)-4-(3-phenylacetylamino-propyl)-imidazolidin-(2E)-ylidene]-amide
To a solution of 3,5-Diamino-6-chloro-pyrazine-2-carboxylic acid [(S)-4-(3-amino-propyl)-imidazolidin-(2E)-ylidene]-amide (Ex. 31) (0.030 g, 0.96 mmol) in DMF (2 ml), phenylacetyl chloride (0.013 ml, 0.096 mmol) is added. The yellow solution is stirred at room temperature for 10 minutes. Purification by catch and release resin (SCX-2) eluting with MeOH and 7M NH3 in MeOH affords the title compound; [M+H]+ 430.98

reactant | 3,5-Diamino-6-chloro-pyrazine-2-carboxylic acid [(S)-4-(3-amino-propyl)-imidazolidin-(2E)-ylidene]-amide | 0.96 mmol, 0.030 g | NCCC[C@@H]1N\C(\NC1)=N\C(=O)C1=NC(=C(N=C1N)N)Cl | C11H17ClN8O
reactant | phenylacetyl chloride | 0.096 mmol, 0.013 ml | C1(=CC=CC=C1)CC(=O)Cl | C8H7ClO
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
product | 3,5-Diamino-6-chloro-pyrazine-2-carboxylic acid [(S)-4-(3-phenylacetylamino-propyl)-imidazolidin-(2E)-ylidene]-amide | C1(=CC=CC=C1)CC(=O)NCCC[C@@H]1N\C(\NC1)=N\C(=O)C1=NC(=C(N=C1N)N)Cl | C19H23ClN8O2
